* File: MU2X1.pex.netlist.pex
* Created: Mon Jun  5 13:05:47 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MU2X1%D_VDD 1 4 8 13 26 27
c21 27 0 0.198514f
c22 26 0 0.190194f
c23 23 0 0.0701213f
c24 21 0 0.0701213f
c25 8 0 0.659963f
c26 4 0 0.559489f
c27 1 0 0.371433f
r28 22 27 0.193611
r29 22 23 0.0120155
r30 20 26 0.193611
r31 20 21 0.0120155
r32 16 23 0.0329425
r33 9 21 0.0329425
r34 8 23 0.0329425
r35 4 21 0.0329425
r36 1 16 0.051
r37 1 8 0.1445
r38 1 13 0.204
r39 1 13 0.068
r40 1 9 0.136
r41 1 4 0.1955
.ends

.subckt PM_MU2X1%N$4 3 4 6 7 11 17 19 20 22 23 25 27 29 32 34 37 39 48 49 55 60
+ 61
c108 61 0 0.080021f
c109 60 0 0.105506f
c110 55 0 0.0816917f
c111 49 0 0.0194677f
c112 48 0 0.0871895f
c113 44 0 0.039852f
c114 39 0 0.0481254f
c115 37 0 0.0308597f
c116 34 0 0.138998f
c117 33 0 0.097073f
c118 32 0 0.186608f
c119 29 0 0.0452766f
c120 27 0 0.283948f
c121 25 0 0.230841f
c122 23 0 0.08002f
c123 22 0 0.270158f
c124 21 0 0.0512656f
c125 20 0 0.091849f
c126 19 0 0.103629f
c127 17 0 0.539591f
c128 11 0 0.434908f
c129 7 0 0.375821f
c130 6 0 0.157296f
c131 4 0 0.0726972f
c132 3 0 0.102187f
r133 55 57 0.144558
r134 55 56 7
r135 48 49 0.0636438
r136 45 47 0.0779167
r137 39 55 0.0551592
r138 39 53 0.247917
r139 37 61 0.0566888
r140 36 37 0.085
r141 34 57 0.0134325
r142 34 49 0.538333
r143 33 47 0.0425
r144 32 36 0.0474919
r145 32 33 0.793333
r146 31 44 0.00935391
r147 31 48 0.247917
r148 29 60 0.0566888
r149 28 47 0.00499195
r150 28 29 0.085
r151 27 45 0.00499195
r152 26 44 0.0359928
r153 26 27 0.538333
r154 25 44 0.0359928
r155 25 43 0.417917
r156 22 23 21.4286
r157 19 20 18.7188
r158 17 23 147.917
r159 13 21 10.5861
r160 13 22 91.6667
r161 9 21 10.5861
r162 9 11 112.5
r163 7 21 2.75115
r164 7 20 118.75
r165 6 56 15.2843
r166 6 19 33.3333
r167 4 53 0.0519666
r168 3 43 0.0519666
.ends

.subckt PM_MU2X1%D_GND 1 4 5 15 18 27
c23 19 0 0.0701213f
c24 18 0 0.647153f
c25 16 0 0.0701213f
c26 15 0 0.532879f
c27 5 0 0.189304f
c28 4 0 0.181777f
c29 1 0 0.392876f
r30 18 19 0.0329425
r31 17 19 0.0329425
r32 15 16 0.0329425
r33 14 16 0.0329425
r34 10 19 0.0120155
r35 6 16 0.0120155
r36 5 10 0.165278
r37 4 6 0.165278
r38 1 17 0.068
r39 1 18 0.1275
r40 1 27 0.204
r41 1 27 0.068
r42 1 14 0.153
r43 1 15 0.1785
.ends

.subckt PM_MU2X1%clk1 2 5 9 13 16 18 20 21 25 26 27 32 34
c76 34 0 0.115214f
c77 32 0 0.0171127f
c78 27 0 0.0210846f
c79 26 0 0.0878668f
c80 25 0 0.154532f
c81 21 0 0.151584f
c82 20 0 0.0261904f
c83 18 0 0.156212f
c84 16 0 0.157497f
c85 13 0 0.102099f
c86 9 0 0.515246f
c87 5 0 0.656961f
c88 2 0 0.0703239f
r89 34 41 0.04675
r90 25 40 15.2843
r91 24 27 0.0519666
r92 24 26 0.0519666
r93 24 25 7
r94 21 36 15.2843
r95 20 22 0.0191874
r96 20 21 7
r97 18 41 0.025958
r98 17 32 0.0359928
r99 17 18 0.4675
r100 16 32 0.0359928
r101 16 31 0.65875
r102 13 32 0.00935391
r103 13 27 0.269167
r104 12 22 0.0210354
r105 12 26 0.524167
r106 9 40 158.333
r107 5 36 204.167
r108 2 31 0.0519666
.ends

.subckt PM_MU2X1%Q 2 10 14
c13 14 0 0.471967f
c14 10 0 0.08046f
c15 2 0 0.353273f
r16 12 14 0.472222
r17 10 12 0.0405884
r18 10 11 0.0405884
r19 2 11 0.34
.ends

.subckt PM_MU2X1%IN0 3 7 13 16
c33 16 0 0.248478f
c34 13 0 0.0229862f
c35 7 0 0.861683f
c36 3 0 0.313356f
r37 15 16 8.33333
r38 11 16 12.5
r39 11 13 7
r40 5 16 6.3741
r41 5 7 279.167
r42 1 15 6.3741
r43 1 3 79.1667
.ends

.subckt PM_MU2X1%IN1 3 5 7 10
c32 10 0 0.0298134f
c33 7 0 0.761513f
c34 5 0 0.279076f
c35 3 0 0.359685f
r36 10 13 7
r37 5 13 33.5813
r38 5 7 241.667
r39 1 13 15.2183
r40 1 3 93.75
.ends

.subckt PM_MU2X1%S 3 7 9 10 11 12 13 15 17 19 21 22 24 27 30 34 37 41
c88 41 0 0.0363834f
c89 37 0 0.034352f
c90 34 0 0.151577f
c91 30 0 0.0924121f
c92 27 0 0.0140199f
c93 24 0 0.124667f
c94 22 0 0.0220017f
c95 21 0 0.101097f
c96 19 0 0.424203f
c97 17 0 0.248072f
c98 15 0 0.232539f
c99 13 0 0.156986f
c100 12 0 0.156738f
c101 11 0 0.300877f
c102 10 0 0.0756248f
c103 9 0 0.413812f
c104 7 0 0.203905f
c105 3 0 0.353796f
r106 41 42 7
r107 37 38 7
r108 34 46 15.2843
r109 33 34 7
r110 28 51 33.1565
r111 27 30 0.0991667
r112 27 28 7
r113 24 27 0.0358247
r114 23 41 0.0519666
r115 23 24 0.474583
r116 22 33 0.0519666
r117 21 37 0.0519666
r118 21 22 0.694167
r119 17 51 11.061
r120 17 19 102.083
r121 13 42 6.98411
r122 13 15 43.75
r123 12 38 15.2843
r124 11 51 4.25758
r125 11 12 91.6667
r126 9 42 6.98411
r127 9 10 145.833
r128 5 10 13.9682
r129 5 7 43.75
r130 3 46 95.8333
.ends

