* File: MU4X1.pex.netlist.pex
* Created: Thu Jun 22 08:17:14 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MU4X1%D_VDD 1 4 8 12 18 28 47 48 49 50 51
c51 51 0 0.176844f
c52 50 0 0.167727f
c53 49 0 0.159138f
c54 48 0 0.190309f
c55 47 0 0.234053f
c56 41 0 0.0701213f
c57 39 0 0.0701213f
c58 37 0 0.0701213f
c59 30 0 0.208645f
c60 28 0 0.480437f
c61 18 0 0.716714f
c62 12 0 0.556973f
c63 8 0 0.292876f
c64 4 0 0.521346f
c65 1 0 0.0701213f
r66 40 51 0.17
r67 40 41 0.0120155
r68 38 50 0.146389
r69 38 39 0.0120155
r70 36 49 0.17
r71 36 37 0.0120155
r72 33 48 0.17
r73 30 47 0.17
r74 24 41 0.0329425
r75 19 39 0.0329425
r76 18 41 0.0329425
r77 13 37 0.0329425
r78 12 39 0.0329425
r79 8 37 0.0329425
r80 1 33 0.0120155
r81 1 4 0.0329425
r82 1 9 0.0329425
r83 1 30 0.0245326
r84 1 5 0.0231307
r85 1 28 0.153
r86 1 24 0.13175
r87 1 18 0.19975
r88 1 19 0.1445
r89 1 12 0.051
r90 1 13 0.15725
r91 1 8 0.17425
r92 1 9 0.08075
r93 1 4 0.25075
r94 1 5 0.19975
.ends

.subckt PM_MU4X1%D_GND 1 7 8 9 10 11 33 36 39 42 60
c61 60 0 0.488293f
c62 42 0 0.542184f
c63 40 0 0.0701213f
c64 39 0 0.562261f
c65 37 0 0.0701213f
c66 36 0 0.634401f
c67 34 0 0.0701213f
c68 33 0 0.304705f
c69 12 0 0.184835f
c70 11 0 0.147679f
c71 10 0 0.163359f
c72 9 0 0.168203f
c73 8 0 0.163253f
c74 7 0 0.202324f
c75 1 0 0.0701213f
r76 39 40 0.0329425
r77 38 40 0.0329425
r78 36 37 0.0329425
r79 35 37 0.0329425
r80 33 34 0.0329425
r81 32 34 0.0329425
r82 28 40 0.0120155
r83 24 37 0.0120155
r84 20 34 0.0120155
r85 11 28 0.146389
r86 10 24 0.146389
r87 9 20 0.146389
r88 8 16 0.146389
r89 7 12 0.146389
r90 1 16 0.0120155
r91 1 42 0.0329425
r92 1 46 0.0329425
r93 1 12 0.024626
r94 1 43 0.0230372
r95 1 60 0.153
r96 1 38 0.14875
r97 1 39 0.04675
r98 1 35 0.16575
r99 1 36 0.16575
r100 1 32 0.12325
r101 1 33 0.20825
r102 1 46 0.06375
r103 1 42 0.26775
r104 1 43 0.21675
.ends

.subckt PM_MU4X1%O0 2 5 7 9 12 15 17 18 20 24 26 27 38 40 42 44 47 52 54 57 60
+ 66
c154 66 0 0.0256799f
c155 60 0 0.159928f
c156 57 0 0.0788384f
c157 54 0 0.0439208f
c158 52 0 0.0282093f
c159 47 0 0.0216421f
c160 44 0 0.0227594f
c161 42 0 0.0233933f
c162 38 0 0.0465966f
c163 27 0 0.0938874f
c164 26 0 0.0963201f
c165 24 0 0.00710969f
c166 20 0 0.102616f
c167 18 0 0.0902339f
c168 17 0 0.221403f
c169 15 0 0.191389f
c170 12 0 0.312815f
c171 9 0 0.42943f
c172 7 0 0.351104f
c173 5 0 1.01905f
c174 2 0 0.0759925f
r175 57 66 0.0566888
r176 52 54 0.0519666
r177 52 53 7
r178 50 54 0.2975
r179 47 50 0.0519666
r180 47 48 7
r181 43 60 15.2843
r182 42 44 0.0519666
r183 42 43 7
r184 36 38 0.0566667
r185 29 44 0.085
r186 28 40 0.00935391
r187 27 29 0.0474919
r188 27 28 0.325833
r189 26 38 0.00499195
r190 25 40 0.0359928
r191 25 26 0.8925
r192 24 40 0.0359928
r193 23 35 0.0172428
r194 23 24 0.085
r195 21 36 0.00499195
r196 21 66 0.1275
r197 19 20 18.7188
r198 17 18 16.6389
r199 17 60 75
r200 15 19 37.5
r201 12 48 6.98411
r202 12 20 62.5
r203 7 53 27.6316
r204 7 9 108.333
r205 5 48 6.98411
r206 5 18 375
r207 2 35 0.0579306
.ends

.subckt PM_MU4X1%clk0 2 5 8 13 19 23 27 30 32 33 34 36 38 39 44 48 49 53 56 59
+ 64 67 69 72 73 74 77 81 86 87 95 97
c196 97 0 0.0816751f
c197 95 0 0.783079f
c198 87 0 0.132209f
c199 86 0 0.430931f
c200 81 0 0.282396f
c201 74 0 0.0392606f
c202 73 0 0.150898f
c203 72 0 0.0293004f
c204 69 0 0.0563027f
c205 67 0 0.225794f
c206 64 0 0.286145f
c207 59 0 0.0874797f
c208 56 0 0.0598712f
c209 53 0 0.0418409f
c210 49 0 0.158262f
c211 48 0 0.0257191f
c212 44 0 0.0616551f
c213 39 0 0.133996f
c214 38 0 0.122442f
c215 36 0 0.078445f
c216 34 0 0.037001f
c217 33 0 0.057263f
c218 32 0 0.0907544f
c219 30 0 0.0513908f
c220 27 0 0.16529f
c221 23 0 0.275304f
c222 19 0 0.377229f
c223 13 0 0.179738f
c224 8 0 0.205939f
c225 5 0 0.385438f
r226 87 95 312.5
r227 81 86 162.5
r228 80 81 12.215
r229 77 97 0.0221354
r230 73 95 15.2843
r231 72 74 0.0519666
r232 72 73 7
r233 67 90 20.8333
r234 66 69 0.0519444
r235 66 67 7
r236 64 89 46.3599
r237 63 64 7
r238 56 58 0.0991667
r239 54 87 15.2843
r240 54 86 15.2843
r241 53 55 0.0175137
r242 53 54 7
r243 51 53 0.157624
r244 49 84 15.2843
r245 48 49 7
r246 45 80 20.6522
r247 44 45 7
r248 41 69 0.0216719
r249 41 74 0.255
r250 40 56 0.00499195
r251 39 63 0.168543
r252 39 40 0.155833
r253 38 55 0.0130406
r254 37 59 0.019112
r255 37 38 0.4675
r256 36 97 0.024295
r257 35 58 0.0425
r258 35 36 0.162917
r259 33 58 0.00499195
r260 33 34 0.113333
r261 32 34 0.0474919
r262 31 51 0.0130406
r263 31 32 0.432083
r264 30 48 0.0519666
r265 29 44 0.0519666
r266 29 30 0.332917
r267 25 27 37.5
r268 21 90 6.3741
r269 21 23 62.5
r270 17 89 3.83547
r271 17 19 108.333
r272 11 27 1.46822
r273 11 13 37.5
r274 8 80 9.32053
r275 7 25 1.46822
r276 7 8 77.0833
r277 5 84 108.333
r278 2 59 0.0352071
.ends

.subckt PM_MU4X1%O1 2 3 5 9 13 15 16 20 22 23 29 31 32 33 35 36 37 39 41 45 49
+ 52 56 59
c144 59 0 0.153707f
c145 56 0 0.0902348f
c146 52 0 0.0593016f
c147 49 0 0.046427f
c148 45 0 0.0865624f
c149 41 0 0.0461047f
c150 39 0 0.0798348f
c151 37 0 0.0033859f
c152 36 0 0.0570522f
c153 35 0 0.0514268f
c154 33 0 0.0475163f
c155 32 0 0.0975707f
c156 31 0 0.0693059f
c157 29 0 0.159428f
c158 23 0 0.165323f
c159 22 0 0.225613f
c160 20 0 0.217752f
c161 16 0 0.062273f
c162 15 0 0.147094f
c163 13 0 0.19127f
c164 9 0 0.342714f
c165 5 0 0.707765f
c166 3 0 0.19868f
r167 56 62 0.0221354
r168 53 59 15.2843
r169 52 54 0.119
r170 52 53 7
r171 47 49 0.0991667
r172 41 52 0.0546447
r173 40 49 0.00499195
r174 40 41 0.2975
r175 39 47 0.00499195
r176 38 45 0.0216719
r177 38 39 0.34
r178 36 54 0.0142585
r179 36 37 0.1275
r180 35 62 0.024295
r181 34 37 0.0474919
r182 34 35 0.2975
r183 31 32 16.6389
r184 27 29 29.1667
r185 23 25 37.5
r186 21 33 10.5861
r187 21 22 87.5
r188 20 33 10.5861
r189 20 32 87.5
r190 17 29 1.46822
r191 17 31 25
r192 15 22 13.9682
r193 15 16 29.1667
r194 11 27 1.46822
r195 11 13 37.5
r196 7 16 13.9682
r197 7 9 83.3333
r198 6 23 1.46822
r199 5 33 2.75115
r200 5 6 262.5
r201 3 25 1.46822
r202 3 59 75
r203 2 45 0.0425
.ends

.subckt PM_MU4X1%Q 2 4 8 9 10 11 12 21 23 27
c69 27 0 0.167174f
c70 12 0 0.0212482f
c71 11 0 0.104694f
c72 10 0 0.047992f
c73 9 0 0.134227f
c74 8 0 0.058296f
c75 4 0 0.0443172f
c76 2 0 0.0678938f
r77 23 27 0.010625
r78 13 15 0.155833
r79 11 12 0.0728571
r80 10 15 0.0425
r81 9 21 0.166836
r82 9 10 0.347083
r83 8 15 0.00499195
r84 8 19 0.17
r85 5 13 0.00499195
r86 5 11 0.687083
r87 4 27 0.0334507
r88 4 12 0.247917
r89 2 19 0.0519666
.ends

.subckt PM_MU4X1%clk1 2 5 8 9 11 13 15 16 21 23 27 34 40 41 46
c78 46 0 0.109632f
c79 41 0 0.295494f
c80 40 0 0.102743f
c81 37 0 0.117804f
c82 34 0 0.143307f
c83 27 0 0.0242114f
c84 23 0 0.0189362f
c85 21 0 0.543206f
c86 16 0 0.141154f
c87 15 0 0.0578098f
c88 13 0 0.088351f
c89 9 0 0.51684f
c90 8 0 0.208372f
c91 5 0 0.190854f
r92 40 46 0.0566888
r93 36 37 0.113333
r94 27 29 0.0141667
r95 27 28 7
r96 24 41 46.3599
r97 23 24 7
r98 21 37 0.00499195
r99 20 34 0.0216719
r100 20 21 0.9775
r101 18 36 0.00499195
r102 18 46 0.2125
r103 17 29 0.0216719
r104 16 36 0.0425
r105 16 17 0.580833
r106 15 27 0.0519666
r107 14 23 0.0519666
r108 14 15 0.425
r109 12 13 21.4286
r110 9 28 46.7062
r111 9 11 41.6667
r112 8 41 3.83547
r113 8 13 75
r114 5 12 37.5
r115 2 34 0.0613889
.ends

.subckt PM_MU4X1%IN1 2 5 9 13 16 20
c24 20 0 0.287319f
c25 16 0 0.0778876f
c26 13 0 0.229906f
c27 9 0 0.378625f
c28 5 0 0.179141f
c29 2 0 0.718034f
r30 20 24 16.8505
r31 20 22 19.9142
r32 19 20 7
r33 16 19 0.113333
r34 11 13 45.8333
r35 7 24 5.20398
r36 7 9 97.9167
r37 3 13 1.46822
r38 3 5 37.5
r39 2 22 5.20398
r40 1 11 1.46822
r41 1 2 222.917
.ends

.subckt PM_MU4X1%IN0 1 3 7 10 12 17 18
c47 18 0 0.156352f
c48 17 0 0.0175053f
c49 12 0 0.0464109f
c50 10 0 0.0438249f
c51 7 0 0.355515f
c52 3 0 0.344499f
c53 1 0 0.243711f
r54 18 23 15.2843
r55 17 20 0.0519666
r56 17 18 7
r57 14 15 7
r58 12 14 0.085
r59 10 12 0.0519666
r60 10 20 0.332917
r61 7 23 100
r62 1 15 27.1414
r63 1 3 91.6667
.ends

.subckt PM_MU4X1%S0 2 3 4 7 10 11 13 20 24 26 30 33 34 36 39 41 44 46 47 50 53
+ 55 59 61 65 66 70 71 76 79 81 84 86 93
c175 93 0 0.136076f
c176 86 0 0.117262f
c177 84 0 0.221438f
c178 81 0 0.0206795f
c179 79 0 0.0164663f
c180 76 0 0.0299547f
c181 71 0 0.158961f
c182 70 0 0.02904f
c183 66 0 0.157635f
c184 65 0 0.0319847f
c185 61 0 0.0393164f
c186 55 0 0.0534961f
c187 53 0 0.0757569f
c188 50 0 0.153482f
c189 47 0 0.097482f
c190 46 0 0.271769f
c191 44 0 0.113416f
c192 41 0 0.0439241f
c193 39 0 0.210455f
c194 34 0 0.204035f
c195 33 0 0.260453f
c196 30 0 0.227283f
c197 26 0 0.403658f
c198 24 0 0.246779f
c199 20 0 0.573282f
c200 11 0 0.204055f
c201 10 0 0.302209f
c202 7 0 0.337016f
c203 4 0 0.0678494f
c204 3 0 0.261493f
c205 2 0 0.252071f
r206 85 86 13.8954
r207 80 96 15.2843
r208 80 93 4.16667
r209 79 81 0.0519666
r210 79 80 7
r211 74 76 0.0566667
r212 71 91 15.2843
r213 70 73 0.0519666
r214 70 71 7
r215 66 88 15.2843
r216 65 68 0.0661332
r217 65 66 7
r218 62 85 1.38889
r219 62 84 15.2843
r220 61 63 0.013695
r221 61 62 7
r222 59 61 0.0639098
r223 56 76 0.00499195
r224 56 81 0.085
r225 55 74 0.00499195
r226 55 73 0.2975
r227 53 63 0.0230476
r228 53 68 0.44625
r229 48 50 29.1667
r230 47 84 75
r231 46 47 16.6389
r232 42 44 16.6667
r233 37 39 45.8333
r234 34 50 1.46822
r235 34 36 41.6667
r236 33 48 1.46822
r237 33 96 91.6667
r238 30 91 50
r239 26 93 6.3741
r240 26 86 150
r241 24 88 50
r242 18 85 6.3741
r243 18 20 158.333
r244 15 41 10.5861
r245 15 46 95.8333
r246 11 44 1.46822
r247 11 13 41.6667
r248 10 42 1.46822
r249 9 41 2.75115
r250 9 10 116.667
r251 5 39 1.46822
r252 5 7 89.5833
r253 3 41 10.5861
r254 3 4 87.5
r255 2 4 13.9682
r256 1 37 1.46822
r257 1 2 97.9167
.ends

.subckt PM_MU4X1%IN3 3 6 9 10 11 13 14 17 22 25 28
c67 28 0 0.172726f
c68 25 0 0.219378f
c69 17 0 0.0287077f
c70 14 0 0.156081f
c71 13 0 0.0680928f
c72 11 0 0.0587333f
c73 10 0 0.0712248f
c74 9 0 0.0375069f
c75 6 0 0.26394f
r76 18 28 6.94444
r77 17 20 0.0519666
r78 17 18 7
r79 14 25 15.2843
r80 13 15 0.157624
r81 13 14 7
r82 11 15 0.0130406
r83 10 22 0.163479
r84 10 11 0.2975
r85 9 22 0.052146
r86 9 20 0.219583
r87 4 28 6.3741
r88 4 6 62.5
r89 3 25 45.8333
.ends

.subckt PM_MU4X1%IN2 3 7 10 12 14 16 21 24 25 28
c65 28 0 0.289197f
c66 25 0 0.201919f
c67 24 0 0.0427344f
c68 21 0 0.0584923f
c69 16 0 0.0698577f
c70 12 0 0.0699518f
c71 10 0 0.0203003f
c72 7 0 0.29694f
c73 3 0 0.388971f
r74 25 30 15.2778
r75 24 27 0.0519666
r76 24 25 7
r77 19 21 0.1275
r78 17 28 42.517
r79 16 18 0.0107504
r80 16 17 7
r81 14 16 0.0143339
r82 12 21 0.00499195
r83 12 27 0.4675
r84 10 18 0.0329643
r85 9 19 0.00499195
r86 9 10 0.085
r87 5 30 6.3741
r88 5 7 62.5
r89 1 28 3.95073
r90 1 3 95.8333
.ends

.subckt PM_MU4X1%S1 1 3 5 7 10 16 22 26 30 33 34 38 40 41 45 48 49 50 53 56 59
c101 59 0 0.27869f
c102 56 0 0.235959f
c103 53 0 0.0788737f
c104 50 0 0.0242426f
c105 49 0 0.147002f
c106 48 0 0.0410953f
c107 45 0 0.146144f
c108 41 0 0.135573f
c109 40 0 0.055252f
c110 34 0 0.0433363f
c111 33 0 0.0868379f
c112 30 0 0.15691f
c113 26 0 0.225511f
c114 22 0 0.748126f
c115 16 0 0.217742f
c116 10 0 0.335764f
c117 7 0 0.0600477f
c118 5 0 0.218844f
c119 1 0 0.221277f
r120 49 56 15.2843
r121 48 50 0.0519666
r122 48 49 7
r123 45 53 15.2843
r124 44 45 7
r125 41 60 15.2843
r126 41 59 15.2843
r127 40 41 7
r128 38 40 0.141667
r129 36 44 0.0713824
r130 36 38 0.0708333
r131 34 36 0.0539384
r132 34 50 0.162917
r133 33 59 102.083
r134 32 33 21.4286
r135 28 30 29.1667
r136 24 26 50
r137 22 60 218.75
r138 16 32 37.5
r139 12 30 1.46822
r140 12 53 25
r141 8 28 1.46822
r142 8 10 87.5
r143 7 56 87.5
r144 5 26 1.46822
r145 4 7 13.9682
r146 4 5 79.1667
r147 1 24 1.46822
r148 1 3 41.6667
.ends

