* File: NA2I1X12.pex.netlist.pex
* Created: Mon Jun  5 13:08:26 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NA2I1X12%D_VDD 1 5 6 11 13 24 25
c16 25 0 0.0796072f
c17 24 0 0.114505f
c18 21 0 0.0467475f
c19 13 0 0.100181f
c20 6 0 0.301573f
c21 5 0 0.322075f
c22 1 0 0.519915f
r23 14 21 0.0231002
r24 13 21 0.0225187
r25 12 25 0.0566888
r26 12 13 0.198333
r27 6 21 0.0231002
r28 6 11 0.0595
r29 4 24 0.0566888
r30 4 5 0.198333
r31 1 5 0.0287559
r32 1 7 0.022702
r33 1 14 0.1615
r34 1 11 0.136
r35 1 7 0.0765
.ends

.subckt PM_NA2I1X12%OUT 2 4 13 16 19
c18 19 0 0.0699512f
c19 16 0 0.0701221f
c20 13 0 0.11908f
c21 4 0 0.431806f
c22 2 0 0.118279f
r23 16 19 0.0566888
r24 11 13 0.0294321
r25 5 13 0.158934
r26 5 19 0.219583
r27 4 11 0.0127014
r28 4 10 0.85
r29 2 10 0.0566888
.ends

.subckt PM_NA2I1X12%D_GND 1 3 9
c12 10 0 0.0701213f
c13 9 0 0.534477f
c14 3 0 0.231574f
c15 1 0 0.527527f
r16 9 10 0.0329425
r17 8 10 0.0329425
r18 4 10 0.0120155
r19 3 4 0.2125
r20 1 8 0.153
r21 1 9 0.17425
.ends

.subckt PM_NA2I1X12%OI 2 5 9 11 14 19 21 28 35
c42 35 0 0.228873f
c43 28 0 0.106485f
c44 26 0 0.0398649f
c45 21 0 0.027528f
c46 19 0 0.193299f
c47 14 0 0.350836f
c48 11 0 0.165462f
c49 9 0 0.53746f
c50 5 0 0.690092f
c51 2 0 0.107169f
r52 28 35 0.0566888
r53 19 29 15.2778
r54 18 21 0.0519666
r55 18 19 7
r56 15 26 0.0359928
r57 15 35 0.417917
r58 14 26 0.0359928
r59 14 25 0.65875
r60 11 26 0.00935391
r61 11 21 0.51
r62 7 29 6.3741
r63 7 9 143.75
r64 3 29 6.3741
r65 3 5 200
r66 2 25 0.0519666
.ends

.subckt PM_NA2I1X12%B 3 8 10 11 13 16 17 20
c33 20 0 0.185871f
c34 17 0 0.144405f
c35 16 0 0.0880464f
c36 11 0 0.0904923f
c37 10 0 0.228408f
c38 8 0 0.755215f
r39 17 21 15.2843
r40 17 20 15.2843
r41 16 17 7
r42 13 16 0.0708333
r43 11 20 62.5
r44 10 11 21.4286
r45 8 21 214.583
r46 3 10 41.6667
.ends

.subckt PM_NA2I1X12%A 3 7 10 13 14
c29 14 0 0.170353f
c30 13 0 0.0713885f
c31 7 0 0.952732f
c32 3 0 0.252118f
r33 14 18 15.3561
r34 14 17 15.3561
r35 13 14 7
r36 10 13 0.0755556
r37 7 18 285.417
r38 3 17 52.0833
.ends

